US09034866B2
Synthesis of methyl 10-bromo-9-fluoro-3-((1-methyl-1H-pyrazol-5-yl)methyl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxylate
To a solution of methyl 10-bromo-9-fluoro-3-(hydroxy(1-methyl-1H-pyrazol-5-yl)methyl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxylate (140 mg, 0.3035 mmol) in dichloromethane (0.91 mL) was added triethylamine (4.0 equiv., 0.171 mL, 1.214 mmol) followed by methanesulfonyl chloride (1.2 equiv., 0.029 mL, 0.3642 mmol). The reaction was stirred at room temperature until LC/MS analysis indicated complete consumption of starting material.

reactant | methyl 10-bromo-9-fluoro-3-(hydroxy(1-methyl-1H-pyrazol-5-yl)methyl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxylate | 0.3035 mmol, 140 mg | BrC=1C(=CC2=C(C=3N(C4CC2C4)C(=C(N3)C(=O)OC)C(C3=CC=NN3C)O)C1)F | C20H18BrFN4O3
reactant | triethylamine | 1.214 mmol, 0.171 mL, 4.0 equiv. | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.3642 mmol, 0.029 mL, 1.2 equiv. | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 0.91 mL | ClCCl | CH2Cl2
product | methyl 10-bromo-9-fluoro-3-((1-methyl-1H-pyrazol-5-yl)methyl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxylate | BrC=1C(=CC2=C(C=3N(C4CC2C4)C(=C(N3)C(=O)OC)CC3=CC=NN3C)C1)F | C20H18BrFN4O2
